US09340555B2
To a stirred, cooled (0° C.) solution of 7-(3-{[(2-fluoro-5-methylphenyl)amino]carbonyl}phenoxy)thieno[3,2-b]pyridine-2-carboxylic acid (80 mg, 0.19 mmol) in anhydrous DMF (10 ml) were added PyBOP (109 mg, 0.21 mmol) and N,N-diisopropylethylamine (123 mg, 0.95 mmol). The mixture was stirred at 0° C. for 10 minutes, followed by addition of methyl [(3-aminopropyl)amino]acetate dihydrochloride (50 mg, 0.23 mmol). Stirring was continued at 0° C. for 10 minutes then room temperature for 2 hours. The mixture was poured into 100 ml of water with vigorous stirring. The precipitates were filtered, washed with water and dried to give the crude, which was purified by silica gel chromatography eluting with 5-8% methanol in chloroform to give methyl {[3-({[7-(3-{[(2-fluoro-5-methylphenyl)amino]carbonyl}phenoxy)thieno[3,2-b]pyridin-2-yl]carbonyl}amino)propyl]amino}acetate as light beige solid. Yield: 40 mg, 38%.

reactant | 7-(3-{[(2-fluoro-5-methylphenyl)amino]carbonyl}phenoxy)thieno[3,2-b]pyridine-2-carboxylic acid | 0.19 mmol, 80 mg | FC1=C(C=C(C=C1)C)NC(=O)C=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=CC1 | C22H15FN2O4S
reactant | PyBOP | 0.21 mmol, 109 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.95 mmol, 123 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl [(3-aminopropyl)amino]acetate dihydrochloride | 0.23 mmol, 50 mg | Cl.Cl.NCCCNCC(=O)OC
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | methyl {[3-({[7-(3-{[(2-fluoro-5-methylphenyl)amino]carbonyl}phenoxy)thieno[3,2-b]pyridin-2-yl]carbonyl}amino)propyl]amino}acetate | FC1=C(C=C(C=C1)C)NC(=O)C=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)NCCCNCC(=O)OC)C=CC1 | C28H27FN4O5S
